US07371743B2
(f) 3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzoic acid chloride
Prepared analogously to Example 29a from 3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzoic acid and thionyl chloride.

reactant | 3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzoic acid | CC=1C=C(C(=O)O)C=CC1N1CCN(CCC1)C | C14H20N2O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-methyl-4-(4-N-methyl-[1,4]diazepan-1-yl)-benzoic acid chloride | CC=1C=C(C(=O)Cl)C=CC1N1CCN(CCC1)C | C14H19ClN2O
